US04130654
Following the procedure of Preparation 3(a), but substituting 32 g. of diisopropyl-(m-methoxybenzylthio)-terephthalate for diisopropyl-(benzylthio)-terephthalate, using 350 ml. of methanol, 35 ml. of water and 18 g. of potassium hydroxide, and refluxing for three hours, there is obtained 25.2 g. (yield 100%) of (m-methoxybenzylthio)-terephthalic acid having a melting point of 255°-256° C. after recrystallization from methanol.

reactant | diisopropyl-(m-methoxybenzylthio)-terephthalate | C(C)(C)C=1C(=C(C(=C(C(=O)[O-])C1)SCC1=CC(=CC=C1)OC)C(C)C)C(=O)[O-]
reactant | diisopropyl-(benzylthio)-terephthalate | C(C)(C)C=1C(=C(C(=C(C(=O)[O-])C1)SCC1=CC=CC=C1)C(C)C)C(=O)[O-]
reactant | potassium hydroxide | [OH-].[K+]
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | (m-methoxybenzylthio)-terephthalic acid | yield 100% | COC=1C=C(CSC2=C(C(=O)O)C=CC(=C2)C(=O)O)C=CC1 | C16H14O5S
